US09447114B2
To a solution of 1-(3-chlorophenyl)-3-(4-chlorophenyl)propan-1-one (1.39 g, 5 mmol) in HOAc (15 mL) at 0° C. was added Br2 (800 mg, 5 mmol) dropwise. The reaction was refluxed for 8 h, cooled to RT, concentrated then diluted with EA (25 mL) and water (5 mL). The organic layer was washed with brine (5 mL), dried over Na2SO4 and concentrated to give a residue which was purified by chromatography eluted with PE/EA (50:1) to give 2-bromo-1-(3-chlorophenyl)-3-(4-chlorophenyl)propan-1-one (358 mg, 20% yield) as a brown solid. LCMS: MH+ 359 and TR=2.029 min.

reactant | 1-(3-chlorophenyl)-3-(4-chlorophenyl)propan-1-one | 5 mmol, 1.39 g | ClC=1C=C(C=CC1)C(CCC1=CC=C(C=C1)Cl)=O | C15H12Cl2O
reactant | Br2 | 5 mmol, 800 mg | BrBr | Br2
solvent | HOAc | 15 mL | CC(=O)O | C2H4O2
product | 2-bromo-1-(3-chlorophenyl)-3-(4-chlorophenyl)propan-1-one | 358 mg, 20% yield | BrC(C(=O)C1=CC(=CC=C1)Cl)CC1=CC=C(C=C1)Cl | C15H11BrCl2O
